US08133911B2
To a solution of methyl (2R)-2-(4-aminophenyl)propanoate (3.0 g, 18.1 mmol) in toluene (50 ml) conc. H2SO4 (0.47 ml, 50 mmol) was slowly added. Then sodium cyanate (1.88 g, 28 mmol) was added to the suspension and the reaction mixture refluxed for 24 h. After cooling at room temperature, the mixture was washed with a saturated aqueous solution of NH4Cl (2×30 ml), dried over anhydrous Na2SO4 and evaporated under vacuum to give a crude that, after purification by flash chromatography (n-hexane/EtOAc 1:1) afforded the methyl (2R)-2-[4-(carbamoylamino)phenyl]propanoate (2.07 g, 9.95 mmol) as white solid (55%). 1H-NMR (CDCl3): δ 9.35 (bs, 1H, CONH), 7.45 (d, 2H, J=7 Hz), 7.25 (d, 2H, J=7 Hz), 6.55 (bs, 2H, CONH2), 3.75 (m, 1H), 1.50 (d, 3H, J=7 Hz).

reactant | methyl (2R)-2-(4-aminophenyl)propanoate | 18.1 mmol, 3.0 g | NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C10H13NO2
reactant | toluene | 50 mmol, 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium cyanate | 28 mmol, 1.88 g | [O-]C#N.[Na+]
product | methyl (2R)-2-[4-(carbamoylamino)phenyl]propanoate | 9.95 mmol, 2.07 g, 55% | C(N)(=O)NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C11H14N2O3
